US08431575B2
To a stirred suspension of 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester hydrochloride (83.95 mmol, 25 g) in ethyl acetate (400 mL) was added saturated sodium bicarbonate solution (100 mL), and stirring was continued for 30 min. The organic layer was separated, dried, and concentrated to provide 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester. The ethyl ester was dissolved in ethyl acetate (100 mL) and di-tert-butyl dicarbonate (126 mmol, 27.48 g) was added followed by 10% palladium on carbon (5 g, wet). The resultant reaction mixture was subjected to catalytic hydrogenation at 55-60 psi of hydrogen for 24 h with stirring. The catalyst was filtered through a pad of celite, and the pad was washed with ethyl acetate (200 mL). The combined filtrate was concentrated under reduced pressure. The residue was purified by flash column chromatography by eluting with ethyl acetate in hexanes (1:9) to provide 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester.

reactant | 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester hydrochloride | 83.95 mmol, 25 g | Cl.C(C)OC(=O)C1CN(CCC1=O)CC1=CC=CC=C1
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC1=O)CC1=CC=CC=C1 | C15H19NO3
